US04454320
2-Phenylfuran (5.76 g., 40 mmoles) was combined with 100 ml. of tetrahydrofuran and cooled to -30° C. Butyl lithium in hexane (2.3 M, 19.1 ml.) was added dropwise over 5 minutes, keeping the temperature between -20° and -30° C. The reaction mixture was allowed to warm to room temperature and then recooled to -30° C. Sublimed alloxan (5.96 g., 42 mmoles) in 40 ml. of tetrahydrofuran was added over 5 minutes, again keeping the temperature -20° to -30° C. The reaction mixture was again allowed to warm to room temperature, then recooled to 0° C. and 50 ml. of 1 N hydrochloric acid added portionwise over 2-3 minutes. The quenched reaction mixture was extracted with 100 ml. of ethyl acetate. The extract was filtered through a bed of anhydrous magnesium sulfate, and evaporated to yield 5-hydroxy-5-(5 -phenyl-2-furyl)-2,4,6(1H,3H,5H)pyrimidinetrione [9.4 g., gummy solid, Rf 0.75 (1:1 hexane ethyl acetate/5% acetic acid)] contaminated with starting material (Rf 0.45).

reactant | 2-Phenylfuran | 40 mmoles, 5.76 g | C1(=CC=CC=C1)C=1OC=CC1 | C10H8O
reactant | Butyl lithium | C(CCC)[Li]
reactant | alloxan | 42 mmoles, 5.96 g | N1C(=O)NC(=O)C(=O)C1=O | C4H2N2O4
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | hexane | 2.3 M, 19.1 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-hydroxy-5-(5 -phenyl-2-furyl)-2,4,6(1H,3H,5H)pyrimidinetrione | 9.4 g, 5% | OC1(C(NC(NC1=O)=O)=O)C=1OC(=CC1)C1=CC=CC=C1 | C14H10N2O5
